* c:\avkk\waveformgenerator\waveformgenerator.cir

.include avsd_opamp.sub
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
v1  vin gnd pulse(0 5 0.1m 0.1m 0.1m 0.1 0.2)
x1 net-_x1-pad1_ net-_x1-pad2_ net-_sc1-pad2_ gnd output gnd avsd_opamp
v2 net-_x1-pad1_ gnd  dc 5
v3 gnd net-_x1-pad2_  dc 5
xsc2 output net-_sc1-pad2_ sky130_fd_pr__cap_mim_m3_1 W=1 L=1 MF=0.75
* u1  vin plot_v1
* u2  output plot_v1
xsc1 vin net-_sc1-pad2_ gnd sky130_fd_pr__res_generic_pd L=0.85
* s c m o d e
.tran 0.1e-00 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(vin)
plot v(output)
.endc
.end
